US06649657B2
Step E: 7-{[2-(3,5-Dichloro-phenoxy)-ethyl]-methanesulfonyl-amino}-heptanoic acid.
The title compound was prepared from 7-{[2-(3,5-dichloro-phenoxy)-ethyl]-methanesulfonyl-amino}-heptanoic acid ethyl ester using the procedure described in Step B of Example 1 with 2N NaOH. Purification by flash chromatography (1% MeOH in CH2Cl2) provided the title acid. 1HNMR (400 MHz, CDCl3) δ 6.95 (m, 1H), MeOH in CH2Cl2) provided the title acid. 1HNMR (400 MHz, CDCl3) δ 6.95 (m, 1H), 6.75 (m, 2H), 4.07 (t, 2H), 3.56 (t, 2H), 3.23 (t, 2H), 2.86 (s, 3H), 2.33 (t, 2H), 1.61 (m, 4H), 1.33 (m, 4H); MS 411 (M−1).

reactant | 7-{[2-(3,5-dichloro-phenoxy)-ethyl]-methanesulfonyl-amino}-heptanoic acid ethyl ester | C(C)OC(CCCCCCN(S(=O)(=O)C)CCOC1=CC(=CC(=C1)Cl)Cl)=O | C18H27Cl2NO5S
reactant | NaOH | 2N | [OH-].[Na+]
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 7-{[2-(3,5-Dichloro-phenoxy)-ethyl]-methanesulfonyl-amino}-heptanoic acid | ClC=1C=C(OCCN(CCCCCCC(=O)O)S(=O)(=O)C)C=C(C1)Cl | C16H23Cl2NO5S
